US07635715B2
Step G: Preparation of Ethyl 6-chloro-1-cyano-4-hydroxy-1-methyl-2-oxo-naphthalene-3-carboxylate
A solution of benzaldehyde oxime (0.16 g, 1.3 mmol) in DMF (3 mL) was added dropwise to a stirred suspension of 60% NaH (0.033 mL, 1.3 mmol) in dry 1,4-dioxane (5 mL) under a nitrogen atmosphere at room temperature. After 30 minutes, a solution of ethyl 3-(5-chloro-2-(2-cyano-1-ethoxy-1-oxopropan-2-yl)phenyl)propiolate (0.445 g, 1.3 mmol) in DMF (3 mL) was added dropwise. The reaction was monitored by LC-MS and, when complete, the solvent was removed. The residual brown oil was dissolved in DCM (50 mL), water (30 mL), and AcOH (2 mL). The layers were separated, and the aqueous layer was extracted with DCM (3×30 mL). The combined organic layers were dried with MgSO4 and concentrated in vacuo. The crude residue was purified using silica flash chromatography with a gradient of 10-50% EtOAc/hexanes. MS m/e=306 (M+H)+.

reactant | benzaldehyde oxime | 1.3 mmol, 0.16 g | C(C1=CC=CC=C1)=NO | C7H7NO
reactant | NaH | 1.3 mmol, 0.033 mL | [H-].[Na+]
reactant | ethyl 3-(5-chloro-2-(2-cyano-1-ethoxy-1-oxopropan-2-yl)phenyl)propiolate | 1.3 mmol, 0.445 g | ClC=1C=CC(=C(C1)C#CC(=O)OCC)C(C(=O)OCC)(C)C#N | C17H16ClNO4
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | Ethyl 6-chloro-1-cyano-4-hydroxy-1-methyl-2-oxo-naphthalene-3-carboxylate | ClC=1C=C2C(=C(C(C(C2=CC1)(C)C#N)=O)C(=O)OCC)O | C15H12ClNO4
